US06743920B2
1-[2-(Ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]-2-methylpropan-2-ol
To the product from Part F (1-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-ylamino]-2-methylpropan-2-ol was added 10 ml of pyridine. Ethoxyacetyl chloride (3.014 g) was added dropwise to the resulting mixture. The resulting solution was brought to reflux for about 3 days with an intervening day of cooling at about 5° C. The solvent was removed under reduced pressure, and the resulting product dissolved in ethyl acetate containing sodium bicarbonate. The resulting mixture was extracted with water. The resulting organic layer was dried with magnesium sulfate, the solvent was removed under reduced pressure, and the product was cooled to about 5° C. The resulting solid was recrystallized from ethyl acetate. The supernatant was concentrated under reduced pressure to the point of crystallization. This was repeated, resulting in a total of three fractions of crystals in the amounts of 1.500 g, 2.370 g, and 1.527 g, respectively.

reactant | (3-amino-5,6-dimethyl-2-phenoxypyridin-4-ylamino]-2-methylpropan-2-ol | NC=1C(=NC(=C(C1NCC(C)(O)C)C)C)OC1=CC=CC=C1 | C17H23N3O2
reactant | Ethoxyacetyl chloride | 3.014 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(Ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]-2-methylpropan-2-ol | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CC(C)(O)C | C21H27N3O3
